US08003785B2
To a mixture of 0.055 g (0.12 mmole) of 4-(9-cyclopentyl-7,7-difluoro-6-oxo-5-propyl-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-benzoic acid (I-144) and 0.06 g (0.15 mmole) of 1-[bis(dimethylamino)methylene]-1H-1,2,3-triazolo[4,5-b]pyridinium-3-oxide hexafluorophosphate and 2 mL of dimethylformamide was added 0.03 mL (0.186 mmole) of diisopropylethylamine. After stirring at room temperature for 30 minutes 0.09 mL (0.186 mmole) of 2M methylamine in tetrahydrofuran was then added. The mixture was stirred at room temperature for 18 hours. The mixture was diluted with ethyl acetate and water. The aqueous phase was twice extracted with ethyl acetate, and the combined organic layers were washed with water, brine, dried anhydrous magnesium sulfate, filtered and concentrated under reduced pressure. The residue was purified by silica gel chromatography eluting with hexanes-ethyl acetate (30:70) to give 0.029 g of 4-(9-cyclopentyl-7,7-difluoro-6-oxo-5-propyl-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-N-methyl-benzamide (I-146).

reactant | 4-(9-cyclopentyl-7,7-difluoro-6-oxo-5-propyl-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-benzoic acid | 0.12 mmole, 0.055 g | C1(CCCC1)N1C2=C(N(C(C(C1)(F)F)=O)CCC)C=NC(=N2)NC2=CC=C(C(=O)O)C=C2 | C22H25F2N5O3
reactant | 1-[bis(dimethylamino)methylene]-1H-1,2,3-triazolo[4,5-b]pyridinium-3-oxide hexafluorophosphate | 0.15 mmole, 0.06 g | F[P-](F)(F)(F)(F)F.CN(C)C(=[N+]1N=[N+](C2=NC=CC=C21)[O-])N(C)C
reactant | diisopropylethylamine | 0.186 mmole, 0.03 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | methylamine | 0.186 mmole, 2M, 0.09 mL | CN | CH5N
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
solvent | dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
product | 4-(9-cyclopentyl-7,7-difluoro-6-oxo-5-propyl-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-N-methyl-benzamide | 0.029 g | C1(CCCC1)N1C2=C(N(C(C(C1)(F)F)=O)CCC)C=NC(=N2)NC2=CC=C(C(=O)NC)C=C2 | C23H28F2N6O2
